US07214824B2
17(a): 4-Acetyl-2-methylphenyl trifluoromethanesulfonate
To a stirred solution of 1-(4-hydroxy-3-methylphenyl)ethanone (6.0 g, 40 mmol, WO 9964415A1) in methylene dichloride (100 ml) was added triflic anhydride (8.7 ml, 52 mmol) and triethylamine (10 ml) successively. After being stirred for 16 hours at ambient temperature, the reaction mixture was quenched with water and crude product was extracted with methylene dichloride. The organic layer was dried over sodium sulfate and concentrated in vacuo. The crude material was applied to a silica gel chromatography column and eluted with a volume mixture of methylene dichloride/ethyl acetate (5/1) to furnish 9.6 g (85% yield) of the title compound as yellow liquid.

reactant | 1-(4-hydroxy-3-methylphenyl)ethanone | 40 mmol, 6.0 g | OC1=C(C=C(C=C1)C(C)=O)C | C9H10O2
reactant | triflic anhydride | 52 mmol, 8.7 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | methylene dichloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-Acetyl-2-methylphenyl trifluoromethanesulfonate | 9.6 g, 85% yield | FC(S(=O)(=O)OC1=C(C=C(C=C1)C(C)=O)C)(F)F | C10H9F3O4S
